US06184242B2
Aluminum chloride (9.3 g) was added in a single portion to a mixture of 4-nitrobenzoyi chloride (10 g) and toluene (6.3 mL) dissolved in carbon disulfide (35 mL). The mixture was warmed from room temperature to reflux and heated for 3 hours. Concentrated hydrochloric acid (19 mL) was slowly added, and the mixture stirred for an additional 30 minutes, poured into water, and extracted with dichloromethane (3×). The extract was washed with dilute ammonium hydroxide and water, dried (Na2SO4), and evaporated. Recrystallization from ethyl acetate gave 4-(4-methylbenzoyl)-nitrobenzene (10.6 g, 82%) as a pale yellow solid, m.p. 122.4-123.1° C.

reactant | Aluminum chloride | 9.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-nitrobenzoyi chloride | 10 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | toluene | 6.3 mL | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | 19 mL | Cl | ClH
solvent | carbon disulfide | 35 mL | C(=S)=S | CS2
solvent | water | O | H2O
product | 4-(4-methylbenzoyl)-nitrobenzene | 10.6 g, 82% | CC1=CC=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H11NO3
